US05376684
A solution of 0.13 g of lithium hydroxide in 3 ml of water is added to a solution in 5 ml of ethanol of 1.1 g of 3-{N-1(S)-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid ethyl ester [obtainable as described in Example 2 starting from bromomethylcyclohex-3-ene and 1,1-diethoxyethylphosphinic acid ethyl ester via 3-chloro-2(R)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid ethyl ester and further reaction thereof with 1(S)-(3,4-dichlorophenyl)ethylamine] and the mixture is heated at 60° for 24 hours, then cooled to room temperature and concentrated by evaporation under reduced pressure. The residue is taken up in water, rendered neutral with aqueous phosphoric acid solution and again concentrated by evaporation under reduced pressure. The white solid that remains behind is taken up in hot methanol and filtered. Removal of the methanol yields a hygroscopic solid which, after crystallisation from cyclohexane/petroleum ether (60°-80°), yields 3-{N-[1(S)-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid in the form of a hygroscopic solid; 1H-NMR spectrum (in CD3OD): δ=7.68 (1H), 7.58 (1H), 7.40 (1H), 6.60 (2H, CH=CH), 4.22 (1H,q,CH), 4.13 (1H,m), 2.97 (1H, dd, CHN), 2.63 (1H, dd,CHN), 2.33-1.21 (14H,m). The hydrochloride melts at 105°-206°.

reactant | lithium hydroxide | 0.13 g | [OH-].[Li+]
reactant | 2(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid ethyl ester | C(C)OP(=O)(CC1CC=CCC1)C[C@H](C)O | C12H23O3P
reactant | bromomethylcyclohex-3-ene | BrCC1CC=CCC1 | C7H11Br
reactant | 1,1-diethoxyethylphosphinic acid ethyl ester | C(C)OP(=O)C(C)(OCC)OCC | C8H19O4P
reactant | 3-chloro-2(R)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid ethyl ester | C(C)OP(=O)(CC1CC=CCC1)C[C@H](CCl)O | C12H22ClO3P
reactant | 1(S)-(3,4-dichlorophenyl)ethylamine | ClC=1C=C(C=CC1Cl)[C@H](C)N | C8H9Cl2N
solvent | water | 3 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-{N-[1(S)-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl-(cyclohex-3-enylmethyl)-phosphinic acid | ClC=1C=C(C=CC1Cl)[C@H](C)NC[C@@H](CP(O)(=O)CC1CC=CCC1)O | C18H26Cl2NO3P
